US09422240B2
To a solution of 1,4-cyclohexanedione mono-2,2-dimethyltrimethylene ketal (3.76 g) and zinc chloride (about 1.0 mol/L, solution in diethyl ether, 1.90 mL) in tetrahydrofuran (63.0 mL), benzylmagnesium bromide (about 1.0 mol/L, solution in tetrahydrofuran, 24.7 mL) was added at 0° C. and thereafter the mixture was stirred at that temperature for 2.5 hours. To the reaction mixture, a saturated aqueous solution of ammonium chloride was added and three extractions were conducted with ethyl acetate. The combined organic layers were washed with saturated brine and thereafter dried over anhydrous magnesium sulfate. The desiccant was removed by filtration and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=95:5-60:40) to give 9-benzyl-3,3-dimethyl-1,5-dioxaspiro[5.5]undecan-9-ol as a colorless solid (1.28 g).

reactant | 1,4-cyclohexanedione mono-2,2-dimethyltrimethylene ketal | 3.76 g | CC1(COC2(CCC(=O)CC2)OC1)C | C11H18O3
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | benzylmagnesium bromide | about 1.0 mol/L, 24.7 mL | C(C1=CC=CC=C1)[Mg]Br
solvent | tetrahydrofuran | 63.0 mL | O1CCCC1 | C4H8O
catalyst | zinc chloride | about 1.0 mol/L, 1.90 mL | [Cl-].[Zn+2].[Cl-]
product | 9-benzyl-3,3-dimethyl-1,5-dioxaspiro[5.5]undecan-9-ol | 1.28 g | C(C1=CC=CC=C1)C1(CCC2(OCC(CO2)(C)C)CC1)O | C18H26O3
